US07495103B2
To a solution of methyl (2-tert-butyl-4-bromo-5-nitrophenyl) carbonate (121.5 g, 0.366 mol) in methanol (1000 mL) was added potassium hydroxide (30.75 g, 0.549 mol ) in portions. After addition, the mixture was stirred at room temperature for 3 h and acidified with 1N HCl to pH 7. Methanol was removed and water was added. The mixture was extracted with ethyl acetate and the organic layer was separated, dried over Na2SO4 and concentrated to give 2-tert-butyl-4-bromo-5-nitro-phenol (C-14-a) (100 g, 99%).

reactant | methyl (2-tert-butyl-4-bromo-5-nitrophenyl) carbonate | 0.366 mol, 121.5 g | C(OC)(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C(C)(C)C)=O | C12H14BrNO5
reactant | potassium hydroxide | 0.549 mol, 30.75 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 1000 mL | CO | CH4O
product | 2-tert-butyl-4-bromo-5-nitro-phenol | 100 g, 99% | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])O | C10H12BrNO3
